US08957070B2
Ethyl 7-[ethyl(2-thienylsulfonyl)amino]-4,5-dimethyl-1H-indole-2-carboxylate
To a mixture of ethyl 7-[(2-thienylsulfonyl)amino]-4,5-dimethyl-1H-indole-2-carboxylate (0.35 g), potassium carbonate (0.13 g) and N,N-dimethylformamide (8 mL) was added dropwise ethyl iodide (0.074 mL) under ice-cooling. The mixture was stirred at from under ice-cooling to room temperature for 18 hr. The reaction solution was diluted with ethyl acetate, washed successively with aqueous citric acid solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:9-2:8), and the obtained colorless crystals were recrystallized from ethyl acetate-hexane to give the title compound (253 mg, yield 67%) as colorless prism crystals. melting point 134-135° C.

reactant | ethyl 7-[(2-thienylsulfonyl)amino]-4,5-dimethyl-1H-indole-2-carboxylate | 0.35 g | S1C(=CC=C1)S(=O)(=O)NC=1C=C(C(=C2C=C(NC12)C(=O)OCC)C)C | C17H18N2O4S2
reactant | potassium carbonate | 0.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
reactant | ethyl iodide | 0.074 mL | C(C)I | C2H5I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 7-[ethyl(2-thienylsulfonyl)amino]-4,5-dimethyl-1H-indole-2-carboxylate | 253 mg, yield 67% | C(C)N(C=1C=C(C(=C2C=C(NC12)C(=O)OCC)C)C)S(=O)(=O)C=1SC=CC1 | C19H22N2O4S2
